US07091214B2
To a stirred solution of N1-(7-bromo-3-nitroquinolin-4-yl)ethane-1,2-diamine (50 g, 0.167 mol) and triethylamine (2 equivalents) in 1500 mL dichloromethane, was slowly added methanesulfonic anhydride (1.2 equivalents), and the reaction was stirred overnight at room temperature. Water (1 L) was added, and the mixture was stirred vigorously for one hour. The organic layer was separated and concentrated under reduced pressure to provide N-[2-(7-bromo-3-nitroquinolin-4-ylamino)ethyl]methanesulfonamide.

reactant | N1-(7-bromo-3-nitroquinolin-4-yl)ethane-1,2-diamine | 0.167 mol, 50 g | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCN | C11H11BrN4O2
reactant | triethylamine | 2 equivalents | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic anhydride | 1.2 equivalents | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | Water | 1 L | O | H2O
solvent | dichloromethane | 1500 mL | ClCCl | CH2Cl2
product | N-[2-(7-bromo-3-nitroquinolin-4-ylamino)ethyl]methanesulfonamide | BrC1=CC=C2C(=C(C=NC2=C1)[N+](=O)[O-])NCCNS(=O)(=O)C | C12H13BrN4O4S
